US05618798
III. Sodium sucrose octasulfate
One portion of sucrose octasulfate solution prepared as described in I above was adjusted with 10% w/w aqueous sodium hydroxide to pH=9 with stirring at room temperature. The solution was evaporated at 50° C. in vacuo to remove pyridine and water. When 250 ml were distilled, 580 ml of ethylene glycol were added and the evaporation was continued until 10 mm vacuum. 100 ml of ethanol were added to the solution. The solution was filtered, and pH was adjusted to 9.5. 350 ml of ethanol were slowly added with vigorous stirring at 30°-35° C., and the substance will then precipitate. After the addition was ended, the mixture was cooled to 10° C., and the solid substance was filtered and washed with 50 ml of 1:1 ethanol/ethylene glycol and 200 ml of methanol. The wet filter cake was dried in vacuo at 50° C. The crude product was dissolved in 520 ml of ethylene glycol and heated to 40° C., and 100 ml of ethanol were added. The solution was filtered and pH was adjusted to 9.5. 350 ml of ethanol were slowly added with vigorous stirring at 30°-35° C. and the substance will then precipitate. After the addition was ended, the mixture was cooled to 10° C. and the solid substance was filtered. It was washed with 50 ml of 1:1 ethanol/ethylene glycol and 200 ml of ethanol. The wet filter cake was dried in vacuo at 50° C. The substance was reprecipitated once as above and then dried for 2 hours at room temperature in 500 ml of ethanol. The substance was filtered, washed with 200 ml of ethanol and dried at 50° C. in vacuo.

reactant | sucrose octasulfate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O | C12H22O35S8
reactant | sodium hydroxide | [OH-].[Na+]
product | Sodium sucrose octasulfate | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)O[C@]2([C@H]([C@@H]([C@H](O2)COS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])COS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/C12H22O35S8.8Na/c13-48(14,15)37-1-4-6(43-51(22,23)24)8(45-53(28,29)30)9(46-54(31,32)33)11(40-4)42-12(3-39-50(19,20)21)10(47-55(34,35)36)7(44-52(25,26)27)5(41-12)2-38-49(16,17)18;;;;;;;;/h4-11H,1-3H2,(H,13,14,15)(H,16,17,18)(H,19,20,21)(H,22,23,24)(H,25,26,27)(H,28,29,30)(H,31,32,33)(H,34,35,36);;;;;;;;/q;8*+1/p-8/t4-,5-,6-,7-,8+,9-,10+,11?,12+;;;;;;;;/m1......../s1
